US06586421B2
(5aS*,10bS*)-N-(2-chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indol-10-amine
Following the procedure for the preparation of (5aS*,10bS*)-10-(4-chlorophenyl)-1,2,3,4,5,5a,6, 10b-octahydroazepino[4,5-b]indole dihydrochloride, making non-critical variations, starting from N-(2-chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-amine the title compound was prepared: 1H NMR (DMSO-d6)δ 61.68, 1.77, 1.93, 2.58, 2.73, 2.95, 5.62, 6.20, 6.77-6.82, 6.86, 6.94, 7.14, 7.37. HRMS (FAB) calcd for C18H20ClN3 (MH+) 314.1424, found 314.1422.

reactant | (5aS*,10bS*)-10-(4-chlorophenyl)-1,2,3,4,5,5a,6, 10b-octahydroazepino[4,5-b]indole dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C=1C=2[C@H]3[C@@H](NC2C=CC1)CCNCC3
reactant | N-(2-chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-amine | ClC1=C(C=CC=C1)NC=1C=2C3=C(NC2C=CC1)CCNCC3 | C18H18ClN3
product | (5aS*,10bS*)-N-(2-chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indol-10-amine | ClC1=C(C=CC=C1)NC=1C=2[C@H]3[C@@H](NC2C=CC1)CCNCC3 | C18H20ClN3
